US04097665
10 mmol of 5',3'-di-O-tetrahydropyranyl-5-chlorouridine and 20 mmol of arachidonoic anhydride were added to 200 ml of hexamethylphosphoramide, and the mixture was stirred for 4 hours at a temperature of 80° C. The resulting reaction mixture was then concentrated at 0.2 atm. at a temperature of 60° C. 100 ml of toluene was added to the resulting residue followed by heating at a temperature of 80° C while refluxing. The mixture was then allowed to cool to room temperature, and the precipitate formed as collected gy filtration. 200 ml of dioxane was then added to the precipitate and the mixture was heated at a temperature of 80° C to dissolve the residue. The solution was allowed to cool to room temperature, and 100 ml of water was added to the solution. The white precipitate formed was collected by filtration and air-dried to obtain 3.9 mmol (39% yield) of 5',3'-di-O-tetrahydropyranyl-2'-O-arachidonoyl-5-chlorouridine as a white powder.

reactant | 5',3'-di-O-tetrahydropyranyl-5-chlorouridine | 10 mmol | O1C(CCCC1)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)Cl)O)OC1OCCCC1 | C19H27ClN2O8
reactant | arachidonoic anhydride | 20 mmol | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)(=O)OC(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)=O | C40H62O3
solvent | hexamethylphosphoramide | 200 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 5',3'-di-O-tetrahydropyranyl-2'-O-arachidonoyl-5-chlorouridine | 3.9 mmol, 39% yield | O1C(CCCC1)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)Cl)OC(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)=O)OC1OCCCC1 | C39H57ClN2O9
